US08809267B2
2-Isopropylamino-oxazole-4-carboxylic acid (6-acetyl-2-chloro-3-methoxyphenyl)amide (863 mg, 2.45 mmol) was suspended in toluene (20 ml). NaH (147.3 mg, 3.7 mmol) was added to the vigorously stirred mixture while monitoring H2 evolution. The reaction was refluxed (110° C.) for 3 h. After cooling, additional NaH (approx 80 mg) was carefully added, followed by 20 mL of THF to aid solubility. The mixture was heated for an additional 2 h. After cooling to room temperature, the reaction mixture was acidified to pH 2 with conc. HCl. The slurry was stirred for 1 h at rt, then 10 mL of CH3CN was added, followed by 5 mL H2O and 20 mL of ether. The mixture was stirred for another 30 min, and then the solids were collected by filtration and washed with ether and hexane. The wet cake was dried under high vacuum to a constant weight to provide 8-chloro-2-(2-isopropylaminooxazol-4-yl)-7-methoxy-quinolin-4-ol (840 mg, 100% yield) that was used without further purification. LCMS found 334 [M+H]+.

reactant | 2-Isopropylamino-oxazole-4-carboxylic acid (6-acetyl-2-chloro-3-methoxyphenyl)amide | 2.45 mmol, 863 mg | C(C)(=O)C1=CC=C(C(=C1NC(=O)C=1N=C(OC1)NC(C)C)Cl)OC | C16H18ClN3O4
reactant | NaH | 3.7 mmol, 147.3 mg | [H-].[Na+]
reactant | NaH | approx 80 mg | [H-].[Na+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | HCl | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | H2O | 5 mL | O | H2O
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 8-chloro-2-(2-isopropylaminooxazol-4-yl)-7-methoxy-quinolin-4-ol | 840 mg, 100% yield | ClC=1C(=CC=C2C(=CC(=NC12)C=1N=C(OC1)NC(C)C)O)OC | C16H16ClN3O3
